US04788199
Triethlamine (3.78 cc) is added to a suspension of 2-phenyl-4-quinolinepropanoic acid (2.5 g) in chloroform (100 cc), followed, under nitrogen and after the mixture has been cooled to 10° C., by ethylchloroformate (1.24 g). The mixture is then stirred for 40 minutes at room temperature (approximately 20° C.), and N-methyl-2-butanamine hydrochloride (1.05 g) is then introduced in small portions. The mixture is stirred for 20 hours at room temperature (approximately 20° C.). After evaporation of the solvent under reduced pressure, the residue is taken up in ethyl acetate, and the organic phase is washed with saturated aqueous sodium carbonate solution and dried over magnesium sulphate. The residue obtained after evaporation of the solvent under reduced pressure is chromatographed under pressure on silica gel, initially with a cyclohexane/toluene/diethylamine (80:15:5 by volume) mixture, a second time with a cyclohexane/toluene/diethylamine (90: 7.5:2.5 by volume) mixture, and a third time with a hexane/ethyl acetate (50:50 by volume) mixture. The residue obtained is taken up in acetone and, after addition of a solution of hydrochloric acid in ethyl ether, the product is isolated in the form of the crude hydrochloride. The latter is recrystallized in an isopropanol/isopropyl ether mixture. After a return to the base using 2 N sodium hydroxide, extraction with ethyl acetate and evaporation under reduced pressure, N-methyl-N-(1-methylpropyl)-2-phenyl-4-quinolinepropanamide (0.45 g) is isolated in the form of an oil, the proton NMR spectrum of which in deuterated chloroform shows the following characteristics:

reactant | 2-phenyl-4-quinolinepropanoic acid | 2.5 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC(=O)O | C18H15NO2
reactant | ethylchloroformate | 1.24 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | N-methyl-2-butanamine hydrochloride | 1.05 g | Cl.CNC(C)CC
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 100 cc | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | Triethlamine | 3.78 cc | C(C)N(CC)CC | C6H15N
product | N-methyl-N-(1-methylpropyl)-2-phenyl-4-quinolinepropanamide | 0.45 g | CN(C(CCC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)=O)C(CC)C | C23H26N2O
